US04920116
α-Azidomethyl-N,N-diethyl-1-naphthalenemethanamine
To a solution of 2.11 g (0.01 mol) of 2-azido-1-(naphthalen-1-yl)ethanone, and 3.66 g (0.05 mol) of diethylamine in 50 mL of dry methanol add 10 g of 3A molecular sieves. Adjust the pH of the mixture to pH=6 with 5N HCl in methanol and add 1 g (0.016 mol) of sodium cyanoborohydride. Follow the progress of the reaction by thin-layer chromatography on silica gel. Maintain the pH of the reaction mixture at pH=ca.6 by the addition of 5N HCl in methanol as necessary. At the completion of the reaction add concentrated hydrochloric acid until pH <2. Evaporate the solvent in vacuo. To the residue add 50 mL of water and extract with three 25 mL portions of diethyl ether. Adjust the pH of the aqueous phase to pH=11 with 4N sodium hydroxide solution and extract with three 100 mL portions of methylene chloride. Wash the combined extracts with 50 mL of water and 50 mL of saturated sodium chloride solution then dry over anhydrous sodium sulfate. Filter the drying agent and evaporate the solvent in vacuo to obtain the title compound.

reactant | 2-azido-1-(naphthalen-1-yl)ethanone | 0.01 mol, 2.11 g | N(=[N+]=[N-])CC(=O)C1=CC=CC2=CC=CC=C12 | C12H9N3O
reactant | diethylamine | 0.05 mol, 3.66 g | C(C)NCC | C4H11N
reactant | HCl | 5N | Cl | ClH
reactant | sodium cyanoborohydride | 0.016 mol, 1 g | C(#N)[BH3-].[Na+]
reactant | HCl | 5N | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | α-Azidomethyl-N,N-diethyl-1-naphthalenemethanamine | N(=[N+]=[N-])CC(N(CC)CC)C1=CC=CC2=CC=CC=C12 | C16H20N4
